US05866560
A solution of 10.2 g of 17β-acetoxy-7α-(5-acetoxypentyl)-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-triene in 205 ml of methanol is stirred with 33.7 ml of sodium hydroxide solution for 45 minutes at 15° C. Then, it is diluted with diethyl ether, washed with water, dried on sodium sulfate and concentrated by evaporation in a vacuum. 5.6 g of 17β-acetoxy-7α-(5-hydroxypentyl)-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-triene is obtained. [α]D22 =+32.2°(c=0.505% in chloroform)

reactant | 17β-acetoxy-7α-(5-acetoxypentyl)-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-triene | 10.2 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC=3C=C(C=CC3[C@H]1CC2)OC2OCCCC2)CCCCCOC(C)=O | C32H46O6
reactant | sodium hydroxide | 33.7 ml | [OH-].[Na+]
solvent | methanol | 205 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 17β-acetoxy-7α-(5-hydroxypentyl)-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-triene | 5.6 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC=3C=C(C=CC3[C@H]1CC2)OC2OCCCC2)CCCCCO | C30H44O5
